US08865713B2
Step A: 4-chloro-2-nitro-5-pyrrolidin-1-yl-phenylamine.
Pyrrolidine (6 mL) was added to 4,5-dichloro-2-nitro-phenylamine (2.58 g, 12.5 mmol) in a sealed tube and the mixture heated to 100° C. for 6 h. The mixture was cooled to 23° C., poured into water (100 mL) and extracted with EtOAc (3×100 mL). The combined organic layers were washed with brine (50 mL), dried, filtered, and concentrated under reduced pressure to afford the titled compound (3.00 g, 99%). MS (ESI/CI): mass calcd. for C10H12ClN3O2, 241.1; m/z found, 242.1 [M+H]+. 1H NMR (400 MHz, CDCl3): 8.08 (s, 1H), 6.06 (s, 2H), 5.82 (s, 1H), 3.58 (ddd, J=6.6, 4.2, 2.7 Hz, 4H), 2.02-1.90 (m, 4H).

reactant | Pyrrolidine | 6 mL | N1CCCC1 | C4H9N
reactant | 4,5-dichloro-2-nitro-phenylamine | 12.5 mmol, 2.58 g | ClC1=CC(=C(C=C1Cl)N)[N+](=O)[O-] | C6H4Cl2N2O2
solvent | water | 100 mL | O | H2O
product | 4-chloro-2-nitro-5-pyrrolidin-1-yl-phenylamine | 3.00 g, 99% | ClC1=CC(=C(C=C1N1CCCC1)N)[N+](=O)[O-] | C10H12ClN3O2
